US09085555B2
B. (2S,4R) and (2S,4S)-2-(3-Trifluoromethoxy-phenylcarbamoyl)-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-4-methylene-pyrrolidine-1-carboxylic acid tert-butyl ester (0.5 g, 1.29 mmol) in EtOAc (15 mL) was added Pd/C (10%) and the reaction mixture was placed under hydrogen atmosphere overnight. The reaction mixture was filtered on a pad of Celite, the catalyst residue was washed with EtOAc and the solvent was concentrated. The crude material was purified by preparative HPLC (waters SunFire C18-ODB, 5 μm, 30×100 mm, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min, loading 150 mg per run) to give after lyophilization of the purified fractions the desired compounds: (2S,4S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester: tR (HPLC conditions b): 5.34 min; LC/MS: 387.0 [M−H]−; (2S,4R)-2-(3-trifluoromethoxy-phenylcarbamoyl)-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester: tR (HPLC conditions b): 5.53 min; MS (LC/MS): 387.0 [M−H]−.

reactant | (S)-2-(3-trifluoromethoxy-phenylcarbamoyl)-4-methylene-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.29 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=C)C(NC1=CC(=CC=C1)OC(F)(F)F)=O | C18H21F3N2O4
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | (2S,4S)-2-(3-Trifluoromethoxy-phenylcarbamoyl)-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)C)C(NC1=CC(=CC=C1)OC(F)(F)F)=O | C18H23F3N2O4
